US05559256
Ethyl-3-bromoproprionate (3.20 ml; 25 mmol) was added to a mixture of morpholine (2.20 ml; 25 mmol) and Na2CO3 (2.78 g; 26 mmol) in 4.5 ml of EtOH at RT. The mixture was stirred for 30 min at RT and 4 h at reflux. After cooling to RT and filtering, the filtrate was concentrated and the residue was dissolved in H2O. The pH was adjusted to ~1.5 with saturated KHSO4 and the acidic mixture was washed with Et2O. Solid K2CO3 was added to the aqueous layer until a pH of ~9 was reached. The basic mixture was extracted with CH2Cl2, dried (MgSO4) and concentrated to afford 4.75 g (100+%; contained trace solvent) of ethyl-3-morpholinoproprionate as a colorless liquid. A solution of this ester (935 mg; 5 mmol) in 20 ml of Et2O was added to a suspension of LiAlH4 (400 mg; 10 mmol) in 80 ml of Et2O at 0° C. After stirring for 30 min at 0° C., the reaction was quenched by the careful addition of 0.42 ml of H2O followed by 0.42 ml of 15% NaOH and 1.26 ml of H2O. MgSO4 was added and the suspension was filtered and concentrated to afford 531 mg (73%) of Compound 201a as a colorless liquid.

reactant | Ethyl-3-bromoproprionate | 25 mmol, 3.20 ml | C(C)OC(CCBr)=O | C5H9BrO2
reactant | morpholine | 25 mmol, 2.20 ml | N1CCOCC1 | C4H9NO
reactant | Na2CO3 | 26 mmol, 2.78 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 4.5 ml | CCO | C2H6O
product | ethyl-3-morpholinoproprionate | 4.75 g | C(C)OC(CCN1CCOCC1)=O | C9H17NO3
